### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean [hunk 1]
```diff
@@ -615,11 +615,13 @@ lemma aeval_apply_smul_mem_of_le_comap'
     [Semiring A] [Algebra R A] [Module A M] [IsScalarTower R A M] (hm : m ∈ q) (p : R[X]) (a : A)
     (hq : q ≤ q.comap (Algebra.lsmul R R M a)) :
     aeval a p • m ∈ q := by
-  refine p.induction_on (motive := fun f ↦ aeval a f • m ∈ q) (by simpa) (fun f₁ f₂ h₁ h₂ ↦ ?_)
-    (fun n t hmq ↦ ?_)
-  · simp_rw [map_add, add_smul]
+  induction p using Polynomial.induction_on with
+  | C a => simpa using SMulMemClass.smul_mem a hm
```
Comment (grunweg) [inline Mathlib/Algebra/Polynomial/AlgebraMap.lean:619]: So you need to specify `SMulMemClass.smul_mem` because you don't specify the motive, right? Seems fair.

File: Mathlib/Analysis/Normed/Ring/Basic.lean [hunk 2]
```diff
@@ -832,7 +832,6 @@ abbrev NormedCommRing.induced [CommRing R] [NormedRing S] [NonUnitalRingHomClass
 theorem NormOneClass.induced {F : Type*} (R S : Type*) [Ring R] [SeminormedRing S]
     [NormOneClass S] [FunLike F R S] [RingHomClass F R S] (f : F) :
     @NormOneClass R (SeminormedRing.induced R S f).toNorm _ :=
-  -- Porting note: is this `let` a bad idea somehow?
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Ring/Basic.lean:835]: I'd like a maintainer to double-check this and the next porting note are not actionable/don't track anything useful.

File: Mathlib/Analysis/Normed/Ring/Basic.lean [hunk 3]
```diff
@@ -841,7 +840,6 @@ theorem NormOneClass.induced {F : Type*} (R S : Type*) [Ring R] [SeminormedRing
 theorem NormMulClass.induced {F : Type*} (R S : Type*) [Ring R] [SeminormedRing S]
     [NormMulClass S] [FunLike F R S] [RingHomClass F R S] (f : F) :
     @NormMulClass R (SeminormedRing.induced R S f).toNorm _ :=
-  -- Porting note: is this `let` a bad idea somehow?
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Ring/Basic.lean:844]: See above.

File: Mathlib/Topology/Homotopy/Lifting.lean [hunk 4]
```diff
@@ -220,9 +220,13 @@ theorem exists_path_lifts : ∃ Γ : C(I,E), p ∘ Γ = γ ∧ Γ 0 = e := by
     exact ⟨⟨Γ, continuous_iff_continuousOn_univ.mpr
       (by convert cont; rw [eq_comm, Set.eq_univ_iff_forall]; exact fun t ↦ ⟨bot_le, le_top⟩)⟩,
       funext fun _ ↦ eqOn ⟨bot_le, le_top⟩, Γ_0⟩
-  refine Nat.rec ⟨fun _ ↦ e, continuous_const.continuousOn, fun t ht ↦ ?_, rfl⟩
-    fun n ⟨Γ, cont, eqOn, Γ_0⟩ ↦ ?_
-  · rw [t_0, Set.Icc_self] at ht; cases ht; exact γ_0.symm
+  intro n
```
Comment (grunweg) [inline Mathlib/Topology/Homotopy/Lifting.lean:223]: This code is more structured but longer: I personally think this is fine, but flagging this for a second opinion.

**Review by grunweg — COMMENTED** [review]
Thanks for continuing these PRs!
maintainer merge

File: Mathlib/Algebra/Polynomial/AlgebraMap.lean (hunk 1 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Algebra/Polynomial/AlgebraMap.lean:619]: No, previously we ran `simp` on the goal `∀ r : R, (aeval a) (C r) • m ∈ q` , which allowed it to use `SetLike.forall_smul_mem_iff`. But now the `r` is introduced automatically, so either we'd need to `revert` it or work around it (which was easy enough).

File: Mathlib/Topology/Homotopy/Lifting.lean (hunk 4 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Topology/Homotopy/Lifting.lean:223]: Yeah, I wouldn't necessarily mind dropping this change, but I think using `Nat.rec` manually in a proof tends to be golfing too much.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
